US05965719
Synthesis of 3-Hydroxycyclohept-1-yl 1-Thio-α-D-galactopyranoside
The title compound was prepared according to procedures D, E and I above using 1-S-acetyl-2,3,4,6-tetra-O-lauroyl-1-thio-α-D-galactopyranose (from Example C' above) and cyclohept-en-1-one as the electrophile. Mass spectra data was as follows: M (calcd.): 308.40; M (found): 331.3 (M+Na+). Selected nmr data was as follows: 1H-nmr (CD3OD): δ 5.44 (d, J 5.8 Hz, H-1) and 5.45 (d, J 5.8 Hz, H-1).

reactant | 1-S-acetyl-2,3,4,6-tetra-O-lauroyl-1-thio-α-D-galactopyranose | C(C)(=O)S[C@@H]1[C@H](OC(CCCCCCCCCCC)=O)[C@@H](OC(CCCCCCCCCCC)=O)[C@@H](OC(CCCCCCCCCCC)=O)[C@H](O1)COC(CCCCCCCCCCC)=O | C56H102O10S
reactant | cyclohept-en-1-one | C1(C=CCCCC1)=O | C7H10O
product | 3-Hydroxycyclohept-1-yl 1-Thio-α-D-galactopyranoside | S([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1CC(CCCC1)O | C13H24O6S
